US07453010B2
5.2: Ethyl trans-N-(4-{4-[((2S)-2-hydroxy-3-{4-hydroxy-3-[(methylsulfonyl)amino]phenoxy}propyl)amino]cyclohexyl}benzoyl)-L-valinate
A suspension of 1.35 g (0.35 mmol) of ethyl trans-(2S)-2-[(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}benzoyl)amino]-3-methylbutanoate and of 0.177 g of palladium-on-charcoal (10% Pd, 50% in water) in 15 ml of ethanol is placed under hydrogen atmosphere and stirred for 3 h. The catalyst is subsequently filtered off and the solvents are evaporated under reduced pressure. The title compound is obtained in the form of a white solid (0.138 g, 44%) after purification on silica gel (eluent: dichloromethane/methanol/aqueous ammonia 99/1/0.1 to 85/15/1.5 gradient in 30 min).

reactant | ethyl trans-(2S)-2-[(4-{4-[benzyl((2S)-3-{4-(benzyloxy)-3-[(methylsulfonyl)amino]phenoxy}-2-hydroxypropyl)amino]cyclohexyl}benzoyl)amino]-3-methylbutanoate | 0.35 mmol, 1.35 g | C(C1=CC=CC=C1)N([C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)N[C@H](C(=O)OCC)C(C)C)C=C1)C[C@@H](COC1=CC(=C(C=C1)OCC1=CC=CC=C1)NS(=O)(=O)C)O | C44H55N3O8S
solvent | ethanol | 15 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | 0.177 g | [Pd] | Pd
product | Ethyl trans-N-(4-{4-[((2S)-2-hydroxy-3-{4-hydroxy-3-[(methylsulfonyl)amino]phenoxy}propyl)amino]cyclohexyl}benzoyl)-L-valinate | O[C@@H](CN[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)N[C@@H](C(C)C)C(=O)OCC)C=C1)COC1=CC(=C(C=C1)O)NS(=O)(=O)C | C30H43N3O8S
